US06124046
(4) Preparation of N-ethyl-3,6-diformyl-carbazole
109 g of DMF was cooled down to 0° C., and 228 g of phosphorous oxychloride was slowly dropped therein. The resultant was heated up to room temperature, and then 30 g of N-ethylcarbazole and 75 ml of 1,2-dichloroethane were dropped therein. The reaction of the mixture was carried out at 90° C. for 20 hours, thereafter the solution was cooled down to room temperature. The solution was poured into 1.5 l of ice water, and extracted with chloroform, dried with anhydrous MgSO4, and was separated with hexane and ethyl acetate in a column. The reaction yield was about 40%. The structure analysis was confirmed by 1H-NMR, which was shown in FIG. 6.

reactant | DMF | 109 g | CN(C)C=O | C3H7NO
reactant | phosphorous oxychloride | 228 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-ethylcarbazole | 30 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | 1,2-dichloroethane | 75 ml | ClCCCl | C2H4Cl2
product | N-ethyl-3,6-diformyl-carbazole | yield was about 40% | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C16H13NO2
